US03941821
To 3.85 g. of ethyl 2'-mercapto-4-biphenylylglycolate is 40 ml. of water containing 0.65 g. of sodium hydroxide is added 2 ml. of dimethyl sulfate with stirring. The reaction mixture is gradually warmed to 40°C and stirred for 2 hours. The mixture is cooled and extracted with ether which is washed with water, dried and evaporated in vacuo. The residue is distilled to obtain ethyl 2'-methylthio-4-biphenylylglycolate.

reactant | ethyl 2'-mercapto-4-biphenylylglycolate | SC1=C(C=CC=C1)C1=CC=C(C=C1)C(C(=O)OCC)O | C16H16O3S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | 0.65 g | O | H2O
product | ethyl 2'-methylthio-4-biphenylylglycolate | CSC1=C(C=CC=C1)C1=CC=C(C=C1)C(C(=O)OCC)O | C17H18O3S
